US04556737
A 1.84 g quantity of 4-(2,3-dihydroxypropoxy)phenol was dissolved in 0.40 g of sodium hydroxide and 10 ml of 90% methanol. To the solution was added 1.11 g of 2-methylmercaptoacetyl chloride, and the mixture was refluxed for 6 hours. The reaction mixture was concentrated and the residue was extracted with chloroform. The chloroform layer was washed with water, dewatered with Glauber's salt and concentrated. The residue was recrystallized from benzene-petroleum ether, giving 2.25 g of 2-{4-(2,3-dihydroxypropoxy)phenoxy}ethyl methyl sulfide in 87.2% yield, M.P. 59° to 61° C.

reactant | 4-(2,3-dihydroxypropoxy)phenol | OC(COC1=CC=C(C=C1)O)CO | C9H12O4
reactant | 2-methylmercaptoacetyl chloride | 1.11 g | CSCC(=O)Cl | C3H5ClOS
solvent | sodium hydroxide | 0.40 g | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-{4-(2,3-dihydroxypropoxy)phenoxy}ethyl methyl sulfide | 2.25 g, 87.2% yield | CSCCOC1=CC=C(C=C1)OCC(CO)O | C12H18O4S
